US05728686
[1-(1,3-Dipropylxanthin-7-yl)methyl]dimethylphosphine Oxide
The title substance was prepared from 5 g (0.0186 mol) of 1,3-dipropyl-xanthine and 2.8 g (0.0224 mol) of chloromethyldimethylphosphine oxide analogously to Example 67.

reactant | 1,3-dipropyl-xanthine | 0.0186 mol, 5 g | C(CC)N1C(=O)N(C=2N=CNC2C1=O)CCC | C11H16N4O2
reactant | chloromethyldimethylphosphine oxide | 0.0224 mol, 2.8 g | ClCP(C)(C)=O | C3H8ClOP
product | [1-(1,3-Dipropylxanthin-7-yl)methyl]dimethylphosphine Oxide | C(CC)N1C(=O)N(C=2N=CN(C2C1=O)CP(C)(C)=O)CCC | C14H23N4O3P
